US09120749B2
(6-bromo-4-((trans-4-(pyrrolidin-1-ylmethyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (466 mg, 1.5 mmol) was reacted with trans-4-(pyrrolidin-1-ylmethyl)cyclohexanamine dihydrochloride (847 mg, 3.0 mmol) to afford the desired product (180 mg, 52%) as an off-white solid. ESI MS m/z 456 [C24H30BrN3O+H]+

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1.5 mmol, 466 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | trans-4-(pyrrolidin-1-ylmethyl)cyclohexanamine dihydrochloride | 3.0 mmol, 847 mg | Cl.Cl.N1(CCCC1)C[C@@H]1CC[C@H](CC1)N
product | (6-bromo-4-((trans-4-(pyrrolidin-1-ylmethyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone | 180 mg, 52% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CN1CCCC1 | C24H30BrN3O
